US05206240
1'-[2-(6-benzothiazolyl)ethyl]-3,4-dihydro-6-methanesulfonamidospiro[(2H)-1-benzopyran-2,4'-piperidine]4-one hydrochloride
In a manner similar to that described in Example 92, Step B a mixture of 3,4-dihydro-6-methanesulfonamido-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one hydrochloride (0.146 g, 0.42 mmol), sodium bicarbonate (0.143 g, 1.70 mmol), 6-benzothiazolylethyl methanesulfonate (0.108 g, 0.42 mmol), potassium iodide (0.070 g, 0.42 mmol) and acetonitrile (5 mL) was heated at reflux for 6.5 hours. Purification and crystallization as the hydrochloride salt from ethanol gave 0.102 g (48%) of the title compound as a white solid, mp 214°-215° C.

reactant | 3,4-dihydro-6-methanesulfonamido-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one hydrochloride | 0.42 mmol, 0.146 g | Cl.CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCNCC3)O2)=O)C1
reactant | sodium bicarbonate | 1.70 mmol, 0.143 g | C([O-])(O)=O.[Na+]
reactant | 6-benzothiazolylethyl methanesulfonate | 0.42 mmol, 0.108 g | CS(=O)(=O)OCCC1=CC2=C(N=CS2)C=C1 | C10H11NO3S2
reactant | potassium iodide | 0.42 mmol, 0.070 g | [I-].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1'-[2-(6-benzothiazolyl)ethyl]-3,4-dihydro-6-methanesulfonamidospiro[(2H)-1-benzopyran-2,4'-piperidine]4-one hydrochloride | 0.102 g, 48% | Cl.S1C=NC2=C1C=C(C=C2)CCN2CCC1(CC2)OC2=C(C(C1)=O)C=C(C=C2)NS(=O)(=O)C | InChI=1S/C23H25N3O4S2.ClH/c1-32(28,29)25-17-3-5-21-18(13-17)20(27)14-23(30-21)7-10-26(11-8-23)9-6-16-2-4-19-22(12-16)31-15-24-19;/h2-5,12-13,15,25H,6-11,14H2,1H3;1H
